US04886813
Preparation of N-[(R)-1-ethoxycarbonyl-2-cyclopentylcarbamoylmethylthioethyl]-alanine t-butyl ester (α- and β-isomers)
A 2.8 ml of triethylamine was added to a solution of 5.5 g of S-cyclopentylcarbamoylmethyl-L-cysteine ethyl ester and 4.2 g of 2-bromopropionic acid t-butyl ester in 10 ml of HMPA. The mixture was stirred at room temperature for 30 hours. The reaction mixture was poured into ice water and the mixture was extracted with ethyl acetate. The extract was sufficiently washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a 10:1 mixture of ether and n-hexane as an eluent), producing the α-isomer of the title compound from the first eluate as a colorless oil. Yield 1.36 g.

reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | S-cyclopentylcarbamoylmethyl-L-cysteine ethyl ester | 5.5 g | C(C)OC([C@@H](N)CSCC(NC1CCCC1)=O)=O | C12H22N2O3S
reactant | 2-bromopropionic acid t-butyl ester | 4.2 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
solvent | HMPA | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | N-[(R)-1-ethoxycarbonyl-2-cyclopentylcarbamoylmethylthioethyl]-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N[C@@H](CSCC(NC1CCCC1)=O)C(=O)OCC)C)=O | C19H34N2O5S
